US04681966
Ethyl (2-hexyl)but-2-enoate (12 g, 0.06M) in methanol (150 ml) was treated with sodium hydroxide (15 g, 0.375M) in water (100 ml) under reflux for 6 hours. The solvents were then removed in vacuo and the residue taken up in water and extracted with dichloromethane. The aqueous phase was separted, acidified in pH1 with concentrated hydrochloric acid and extracted with dichloromethane. The extract was dried over sodium sulphate and concentrated in vacuo to an oil which was distilled in vacuo to afford E and Z (2-hexyl)but-2-enoic acid (10.1 g, 0.06M) as the main fraction (b.p. 100°-110° C. at 0.5 mm Hg) (Found: C, 68.2; H, 10.4. C10H18O2 +0.5H2O requires: C, 68.5; H, 9.7%); δ(CDCl3) 0.88 (3H, m, CH3); 1.3 (8H, m, (CH2)4); 1.84 and 2.04 (3H, each m, each CH3CH); 2.32 (2H, t, J=8 Hz, CH2) 6.14 and 6.94 (1H, each q, each J=8 Hz, CH).

reactant | Ethyl (2-hexyl)but-2-enoate | 0.06M, 12 g | CC(CCCC)C(C(=O)OCC)=CC | C12H22O2
reactant | sodium hydroxide | 0.375M, 15 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | (2-hexyl)but-2-enoic acid | 0.06M, 10.1 g | CC(CCCC)C(C(=O)O)=CC | C10H18O2
